US06737547B1
N-Acetyl-3-amino-1H-indene (Structure 3)
1-Indanone oxime (2.33 g, 0.016 moles) and imidazole (78 mg) in acetonitrile (45 ml) cooled in ice, were treated with acetic anhydride (11 ml, 0.12 moles) and the mixture thus stirred for one hour. Titanium triacetate (17 g) was added, followed by more acetic anhydride (11 ml, 0.12 moles). The mixture was brought to reflux under nitrogen. After 2 hours the mixture was allowed to cool, poured into 1M sodium carbonate (250 ml) and stirred for 15 minutes. Three-fold extraction with ethyl acetate, drying (MgSO4) and evaporation left a brown oil which was reevaporated with toluene. The brown residue was subjected to flash chromatography on silica gel with ethyl acetate/hexane 1:2 v/v. The major component was obtained as a white solid (1.7 g) from the appropriate fractions and was recrystallized from ethyl acetate/hexane to give the title compound, mp 137-138° C. (1.45 g, 52.9%).

reactant | 1-Indanone oxime | 0.016 moles, 2.33 g | C1(CCC2=CC=CC=C12)=NO | C9H9NO
reactant | imidazole | 78 mg | N1C=NC=C1 | C3H4N2
reactant | acetic anhydride | 0.12 moles, 11 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.12 moles, 11 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | 1M, 250 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
catalyst | Titanium triacetate | 17 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Ti+3]
product | N-Acetyl-3-amino-1H-indene | 1.7 g | C(C)(=O)NC1=CCC2=CC=CC=C12 | C11H11NO
